US07667041B2
Synthesis of 3-fluoro-4-(morpholin-4-yl)benzonitrile
To a DMF (20 mL) solution of 3,4-difluorobenzonitrile (3.00 g), morpholine (2.82 g) and potassium carbonate (5.97 g) were added, and the reaction solution was allowed to be warmed to 100° C. and agitated for 5.5 hours. Water and ethyl acetate were added to the reaction solution after confirming disappearance of the starting materials, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and 4.41 g of the title compound was obtained by condensing under reduced pressure. The physical properties of the compound are as follows.

reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | 3,4-difluorobenzonitrile | 3.00 g | FC=1C=C(C#N)C=CC1F | C7H3F2N
reactant | morpholine | 2.82 g | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 5.97 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-fluoro-4-(morpholin-4-yl)benzonitrile | 4.41 g | FC=1C=C(C#N)C=CC1N1CCOCC1 | C11H11FN2O
